US08283363B2
81.3 (2R)—N-(4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamide
The reaction was carried out in analogy to reaction step 20.3 by reacting 3-((R)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoic acid with cyclopropanamine using HATU (1.2 equivalents) as coupling reagent and DIPEA (3 equivalents) as base. ESI-MS [M+H]+=454.2.

reactant | 3-((R)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoic acid | FC1=C(CN2[C@H](CCC2=O)C(=O)NC(C(C(=O)O)O)CC2=CC=CC=C2)C=CC=C1 | C22H23FN2O5
reactant | cyclopropanamine | C1(CC1)N | C3H7N
reactant | HATU | 1.2 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3 equivalents | CCN(C(C)C)C(C)C | C8H19N
product | (2R)—N-(4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamide | C1(CC1)NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=C(C=CC=C1)F)O)=O | C25H28FN3O4
